US08497281B2
Step 1: cis-7-amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester
The title compound is prepared from cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ylamine and di-tert-butyl dicarbonate following a procedure analogous to that described in Step 3 of Intermediate 32. Yield: 25% of theory; LC (method 1): tR=2.69 min; Mass spectrum (ESI+): m/z=289 [M+H]+.

reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ylamine | N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)N | C12H16N2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | cis-7-amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester | Yield: 25% | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)N | C17H24N2O2
